US09085570B2
A solution of methyl 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate (2.0 g, 4.02 mmol, 1.00 equiv) in 6N hydrochloric acid (80 mL) was refluxed overnight. The reaction mixture was cooled to room temperature and concentrated under vacuum to give 2.0 g (96%) of 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride as a white solid. LC-MS: (ES, m/z): 485 [M+H]+.

reactant | methyl 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 4.02 mmol, 2.0 g, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCCN1CCOCC1 | C26H30N2O6S
reactant | hydrochloric acid | 6N, 80 mL | Cl | ClH
product | 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride | 2.0 g, 96% | Cl.CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCCN1CCOCC1 | InChI=1S/C25H28N2O6S.ClH/c1-18-23(26-24(33-18)20-6-8-21(9-7-20)25(28)29)17-34(30,31)22-10-4-19(5-11-22)3-2-12-27-13-15-32-16-14-27;/h4-11H,2-3,12-17H2,1H3,(H,28,29);1H
